US07288538B2
To a solution of crude 1-bromo-2,4-dimethyl-3-nitrobenzene (0.58 g, 2.9 mmol) in glacial acetic acid (12 mL) was added iron powder (0.65 g, 11.6 mmol). The mixture was stirred rapidly at 80° C. under nitrogen for 2 hours. Upon completion, the mixture was cooled, diluted with diethyl ether and extracted with aqueous sodium hydroxide solution (2N). The organic layer was dried over sodium sulfate, decanted and concentrated under reduced pressure to give 3-bromo-2,6-dimethylphenylamine as a yellow oil which was used without further purification.

reactant | 1-bromo-2,4-dimethyl-3-nitrobenzene | 2.9 mmol, 0.58 g | BrC1=C(C(=C(C=C1)C)[N+](=O)[O-])C | C8H8BrNO2
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | iron | 11.6 mmol, 0.65 g | [Fe] | Fe
product | 3-bromo-2,6-dimethylphenylamine | BrC=1C(=C(C(=CC1)C)N)C | C8H10BrN
